US04120965
5.4 g of (7RS,12aRS)-1,2,3,4,5,7,12,12a-octahydro-7-phenyl-1,4-diazepino[1,7-b]isoquinoline was dissolved in 75 cc of chloroform and 30 cc of water are added. 4.3 g of chloroformic acid ethyl ester and subsequently a solution of 1.58 g of sodium hydroxide in 30 cc of water were added dropwise at a temperature of 0°-5°. The reaction mixture was stirred for another hour without cooling. The layers were then separated and the organic phase was washed twice with water. After drying with magnesium sulphate and concentration by evaporation of the filtered chloroform solution, the (7RS,12aRS)-1,2,3,4,5,7,12,12a-octahydro-7-phenyl-1,4-diazepino[1,7-b]isoquinoline-3-carboxylic acid ethyl ester was obtained in crude form.

reactant | (7RS,12aRS)-1,2,3,4,5,7,12,12a-octahydro-7-phenyl-1,4-diazepino[1,7-b]isoquinoline | 5.4 g | C1(=CC=CC=C1)C1N2C(CC=3C=CC=CC13)CCNCC2 | C19H22N2
reactant | chloroformic acid ethyl ester | 4.3 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodium hydroxide | 1.58 g | [OH-].[Na+]
solvent | chloroform | 75 cc | C(Cl)(Cl)Cl | CHCl3
solvent | water | 30 cc | O | H2O
solvent | water | 30 cc | O | H2O
product | (7RS,12aRS)-1,2,3,4,5,7,12,12a-octahydro-7-phenyl-1,4-diazepino[1,7-b]isoquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN2C(C=3C=CC=CC3CC2CC1)C1=CC=CC=C1 | C22H26N2O2
